US08486943B2
[(S)-4-(3-Allyloxy-pyridin-2-ylmethyl)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester
((S)-7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester (25 g, 88.2 mmol) is dissolved in dimethylformamide (150 mL) under nitrogen. Cesium carbonate (57.5 g, 176.5 mmol) and 3-allyloxy-2-chloromethyl-pyridine (16.2 g, 88.2 mmol) are added sequentially. The reaction mixture is stirred at 40° C. for 16 h. The reaction is cooled to room temperature and added to water (1250 mL). After one hour of stirring a pale cream solid is filtered. The crude material is purified by recrystallization from i-PrOH and then dried under vacuum to constant weight to afford the title compound (32 g; 84%). LC-ES/MS m/z: 431.2 [M+H]+.

reactant | ((S)-7-Cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-carbamic acid isopropyl ester | 88.2 mmol, 25 g | C(C)(C)OC(N[C@H]1CC2=C(NC=3C=CC(=CC23)C#N)C1)=O | C16H17N3O2
reactant | Cesium carbonate | 176.5 mmol, 57.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-allyloxy-2-chloromethyl-pyridine | 88.2 mmol, 16.2 g | C(C=C)OC=1C(=NC=CC1)CCl | C9H10ClNO
reactant | water | 1250 mL | O | H2O
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | [(S)-4-(3-Allyloxy-pyridin-2-ylmethyl)-7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl]-carbamic acid isopropyl ester | 32 g, 84% | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2OCC=C)C1)=O | C25H26N4O3
